US08563617B2
N-[2-(7-Amino-8-benzyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-methanesulfonamide hydrochloride
N-(2-(7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)methanesulfonamide hydrochloride (50.0 mg, 0.104 mmol), Pd—C 10% (1.10 mg), and hydrazine monohydrate (522 mg, 10.4 mmol) were suspended in ethanol (5 ml) and stirred for 4 h under reflux. Water and CH2Cl2 were added, the mixture filtered, and the filtrate was extracted with CH2Cl2. The combined organic layers were washed with water, saturated NaCl solution, dried over Na2SO4, and concentrated to afford a residue that was purified by precipitation from diisopropylether. The residue was transferred to an HCl salt and finally gave the product as a white solid (31 mg, 72%).

reactant | N-(2-(7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)methanesulfonamide hydrochloride | 0.104 mmol, 50.0 mg | Cl.NC1CCC=2C=CC(=CC2C1CC1=CC(=C(C=C1)Cl)Cl)OCCNS(=O)(=O)C
reactant | hydrazine monohydrate | 10.4 mmol, 522 mg | O.NN
reactant | Water | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd—C | 1.10 mg | [Pd] | Pd
product | N-[2-(7-Amino-8-benzyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-methanesulfonamide hydrochloride | 31 mg, 72% | Cl.NC1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)OCCNS(=O)(=O)C | InChI=1S/C20H26N2O3S.ClH/c1-26(23,24)22-11-12-25-17-9-7-16-8-10-20(21)19(18(16)14-17)13-15-5-3-2-4-6-15;/h2-7,9,14,19-20,22H,8,10-13,21H2,1H3;1H
